US09370515B2
Preparation of 3-(benzo[b]thiophen-2-yl)-N8-cyclopropyl-N6-(3,4-dimethoxyphenyl)imidazo[1,2-b]pyridazine-6,8-diamine
To a solution of 3-bromo-N8-cyclopropyl-N6-(3,4-dimethoxyphenyl)imidazo[1,2-b]pyridazine-6,8-diamine (66 mg, 0.163 mmol, 1.0 equiv) in acetonitrile (1.63 mL), was added benzo[b]thiophen-2-yl-2-boronic acid (58 mg, 0.327 mmol, 2.0 equiv), bis(triphenylphosphine)palladium(II) chloride (11 mg, 0.0163 mmol, 0.1 equiv), then sodium carbonate (1.63 mL, 1.0 M aqueous solution, 10 equiv). The reaction mixture was irradiated at 150° C. for 10 min. Purification by column chromatography gave 26 mg of the brown solid, 34%.

reactant | 3-bromo-N8-cyclopropyl-N6-(3,4-dimethoxyphenyl)imidazo[1,2-b]pyridazine-6,8-diamine | 0.163 mmol, 66 mg, 1.0 equiv | BrC1=CN=C2N1N=C(C=C2NC2CC2)NC2=CC(=C(C=C2)OC)OC | C17H18BrN5O2
reactant | benzo[b]thiophen-2-yl-2-boronic acid | 0.327 mmol, 58 mg, 2.0 equiv | B(C1=CC2=CC=CC=C2S1)(O)O | C8H7BO2S
reactant | sodium carbonate | 1.0 M, 1.63 mL, 10 equiv | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 1.63 mL | C(C)#N | C2H3N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.0163 mmol, 11 mg, 0.1 equiv | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(benzo[b]thiophen-2-yl)-N8-cyclopropyl-N6-(3,4-dimethoxyphenyl)imidazo[1,2-b]pyridazine-6,8-diamine | 26 mg | S1C2=C(C=C1C1=CN=C3N1N=C(C=C3NC3CC3)NC3=CC(=C(C=C3)OC)OC)C=CC=C2 | C25H23N5O2S
